US07435837B2
(±)-[(N-methyl-1-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.351 g, 77%) following the general procedure of Example 390 as a white solid, hydrochloride salt from [7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.595 g, 1.324 mmol) and methylamine (1.86 g, 60.0 mmol). 190-192 mp ° C.

reactant | [7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.324 mmol, 0.595 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2Cl)Cl | C22H18Cl2O4S
reactant | methylamine | 60.0 mmol, 1.86 g | CN | CH5N
product | N-methyl-1-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2Cl)Cl | C16H15Cl2NO
